US08242104B2
A 3.0 M solution of ethylmagnesium bromide in ethyl ether (1.1 mL) was added dropwise to a suspension of 9-bromo-2,3-diiodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (1.1 g, 2.2 mmol) in THF at −15° C. The mixture was stirred and followed by LC/MS. After 1 hour, there is no starting material left and the reaction was poured into sat. NH4Cl and extracted with ethyl acetate. The organic extracts were washed with water, brine, dried over MgSO4 and concentrated. The crude residue was purified by flash column chromatography to provide 9-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine as white solid (0.7 g).

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 9-bromo-2,3-diiodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 2.2 mmol, 1.1 g | BrC1=CC2=C(C=3N(CCO2)C(=C(N3)I)I)C=C1 | C11H7BrI2N2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethyl ether | 1.1 mL | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 9-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.7 g | BrC1=CC2=C(C=3N(CCO2)C=C(N3)I)C=C1 | C11H8BrIN2O
